US08304557B2
N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 5 and using 1,3-dimethyl-N-{3-methyl-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide (3.88 g, 7.89 mmol), iodoacetamide (1.90 g, 10.27 mmol), N,N-diisopropylethylamine (1.80 mL, 10.3 mmol) and N,N-dimethylformamide (20 mL) as starting materials, the title compound (3.23 g, 75%) was obtained as a pale-yellow oil.

reactant | 1,3-dimethyl-N-{3-methyl-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 7.89 mmol, 3.88 g | CN1N=C(C=C1C(=O)NC1=CC(=CC(=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C)C | C25H25N5O4S
reactant | iodoacetamide | 10.27 mmol, 1.90 g | ICC(=O)N | C2H4INO
reactant | N,N-diisopropylethylamine | 10.3 mmol, 1.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 3.23 g, 75% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=C(C1)C)NC(=O)C1=CC(=NN1C)C)=O | C27H28N6O5S
